US05364871
A mixture of 4-[6-(2-aminoethyl)pyridin-2-yl]-2-(diaminomethyleneamino)thiazole trihydrochloride (1.5 g) and potassium cyanate (0.5 g) in water (30 ml) was stirred for 5 hours at ambient temperature. The reaction mixture was adjusted to pH 9.5 with potassium carbonate and the mixture was extracted with a mixture of tetrahydrofuran and ethyl acetate. The extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give 2-(diaminomethyleneamino)-4-[6-(2-ureidoethyl)pyridin-2-yl]thiazole (0.55 g).

reactant | 4-[6-(2-aminoethyl)pyridin-2-yl]-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.5 g | Cl.Cl.Cl.NCCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | potassium cyanate | 0.5 g | [O-]C#N.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
product | 2-(diaminomethyleneamino)-4-[6-(2-ureidoethyl)pyridin-2-yl]thiazole | 0.55 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CCNC(=O)N | C12H15N7OS
